Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2](=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1][C:3]([C:4]([H:5])([H:6])[H:7])[H:10]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.34753204887
[C:9]([H:10])([H:11])=[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],1.6623790777599998
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.76783084843
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],7.36431695098
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:4][C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.39118209393
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9],5.99310603709
[H:1][O:2][C:3](=[C:4][H:5])[C:11]([C:9](=[C:6]([H:7])[H:8])[H:10])([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]1([H:12])[H:13],-1.64486397438
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],-2.04766845389
[O:1][C:2]([H:3])=[C:4]=[O:5]>>[H:3].[O:1][C:2]#[C:4][O:5],4.96789784523
[H:1][O:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.92912891701
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],-0.1448405478999999
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-0.953409680547
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.91446815747
[H:1][C:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])=[O:10]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[O:10]1,1.44340283523
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4],4.81939352515
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:9][H:10],2.05928395539
[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-4.12370904452
[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-3.9841723316
[C:1]([C:2](=[C:3]([H:4])[C:5]#[C:6])[C:10]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1][C:2]1[C:3]([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.97038747421
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],7.835585719039999
[H:1][C:2][O:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],4.19447342709
[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4](=[O:5])[H:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.19983634089
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:7]#[C:8][H:9].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:10][H:11],4.6253842122
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8],4.64098087833
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.25401113071
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.3581408586400014
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4](=[C:5]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],4.86399027547
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.22868620342
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.21294947638
